US08193202B2
A. Preparation of 1-tert-butyl 4-ethyl 4-(benzyloxymethyl)piperidine-1,4-dicarboxylate.
LDA (2.64 mL, 5.82 mmol) was added to a solution of 1-tert-butyl 4-ethyl piperidine-1,4-dicarboxylate (1 g, 3.88 mmol) in THF (35 ML) at −78° C. The reaction was stirred for 30 min, and then BOMCl (0.6 g, 3.88 mmol) was added. The reaction was allowed to warm to room temperature, and then quenched with aq. NH4Cl. The aqueous layer was extracted with EtOAc, and the organic extract was washed with brine, dried over MgSO4, and concentrated under vacuum. The residue was purified by flash chromatography (80 g SiO2, 0-10% ethylacetate:hexanes) to afford the title compound (0.5 g, 34%). MS (ES+) [M+H]+=378.

reactant | LDA | 5.82 mmol, 2.64 mL | [Li+].CC(C)[N-]C(C)C
reactant | 1-tert-butyl 4-ethyl piperidine-1,4-dicarboxylate | 3.88 mmol, 1 g | N1(CCC(CC1)C(=O)OCC)C(=O)OC(C)(C)C | C13H23NO4
reactant | BOMCl | 3.88 mmol, 0.6 g | C(OCC1=CC=CC=C1)Cl | C8H9ClO
solvent | THF | C1CCOC1 | C4H8O
product | 1-tert-butyl 4-ethyl 4-(benzyloxymethyl)piperidine-1,4-dicarboxylate | 0.5 g, 34% | C(C1=CC=CC=C1)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C21H31NO5
